US06566491B2
6 g of BOC-Aha-N-succinimidyl ester are added to a solution of 3.05 g of cyclo-(Arg-Gly-Asp-D-Phe-Lys)(SEQ ID NO: 176) in 40 ml of 5% aqueous NaHCO3 and 40 ml of THF. The mixture is stirred for 4 hours and worked-up in the customary manner, affording cyclo-(Arg-Gly-Asp-D-Phe-Lys (BOC-Aha))(SEQ ID NO: 13); RT [C] 27.7; FAB 817. After the BOC group has been eliminated in HCl/dioxane, cyclo-(Arg-Gly-Asp-D-Phe-Lys(Nε-Aha)(SEQ ID NO: 14)×2 TFA; RT [C] 14.76; FAB 717 is obtained after the customary working-up. Cyclo-(Arg-Gly-Asp-D-Phe-Lys(Nε-FCA-Aha))(SEQ ID NO: 15)×TFA; RT [B] 23.8; FAB 1075 is obtained, in analogy with Example 1, by subsequent reaction with FCA-N-succinimidyl ester.

reactant | cyclo-(Arg-Gly-Asp-D-Phe-Lys) | 3.05 g | N1[C@@H](CCCNC(N)=N)C(=O)NCC(=O)N[C@@H](CC(O)=O)C(=O)N[C@H](CC2=CC=CC=C2)C(=O)N[C@@H](CCCCN)C1=O | C27H41N9O7
reactant | NaHCO3 | 40 ml | C(=O)(O)[O-].[Na+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | Arg-Gly-Asp-D-Phe-Lys | N[C@@H](CCCNC(N)=N)C(=O)NCC(=O)N[C@@H](CC(O)=O)C(=O)N[C@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCCCN)C(=O)O | C27H43N9O8
